US06211154B1
Preparation of Boc—(D)—Arg(Tos)—Gly—OBn
To a suspension of Boc—(D)—Arg(Tos)—OH (1 g, 2.34 mmol) in CH2Cl2 (10 mL) was added DIEA (1 mL) at 0° C. To the clear solution was added Gly—OBn.HCl (0.52 g, 2.58 mmol) and BOP (1.2 g, 2.8 mmol). The solution was stirred for 4 h at 0° C. Solvents were evaporated and residue was dissolved in a mixture of EtOAc (100 mL) and water (20 mL). The organic layer was washed with sat. NaHCO3 (10 mL), water (10 mL), 1 N HCl (10 mL) and sat. NaCl (3×10 mL), dried with MgSO4, filtered and evaporated. The solid residue was purified by column chromatography on silica gel (EtOAc) to give 1.12 g of the title compound as a powder. ES—MS (M+H)+=576.3

reactant | Boc—(D)—Arg(Tos)—OH | 2.34 mmol, 1 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OC(C)(C)C | C18H28N4O6S
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Gly—OBn.HCl | 2.58 mmol, 0.52 g | NCC(=O)OCC1=CC=CC=C1.Cl
reactant | BOP | 2.8 mmol, 1.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Boc—(D)—Arg(Tos)—Gly—OBn | 1.12 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H37N5O7S
